US04616015
A mixture of 4'-benzyloxy-2-hydroxyiminopropiophenone (21.1 g), thiosemicarbazide (7.15 g), methanol (107 ml) and a saturated solution of hydrogen chloride in methanol (2 ml) was refluxed for 65 minutes with stirring. After cooling, the resultant precipitates were collected by filtration, washed successively with methanol, water and methanol, and then dried to give 17.9 g of 4'-benzyloxy-2-hydroxyiminopropiophenone thiosemicarbazone.

reactant | 4'-benzyloxy-2-hydroxyiminopropiophenone | 21.1 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(C)=NO)=O | C16H15NO3
reactant | thiosemicarbazide | 7.15 g | NNC(=S)N | CH5N3S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 107 ml | CO | CH4O
product | 4'-benzyloxy-2-hydroxyiminopropiophenone thiosemicarbazone | 17.9 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(C)=NO)=NNC(=S)N | C17H18N4O2S
